* source DECOUPLING MODELS
V_V2         N845480 0 5Vdc
R_R46         N84048 N84460  18G TC=0,0 
X_U2         0 N84048 GRM188R60J106ME47 
C_C14         N84190 N84048  1u  
R_R47         N84048 N845480  0.1 TC=0,0 
R_R42         N84048 N84190  .9G TC=0,0 
R_R43         N84048 0  10G TC=0,0 
C_C15         N84460 N84048  100n  
R_R45         N84460 N844040  0.0163 TC=0,0 
R_R41         N84190 N841340  0.0056 TC=0,0 
L_L11         N844040 0  0.42nH  
I_I10         N84048 0 DC 0Adc AC 0Aac
+PULSE 0 1 0 1p 1p 5n 1u
L_L10         N841340 0  0.42nH  
L_L13         N861260 0  0.42nH  
V_V3         N862640 0 5Vdc
R_R51         N86162 N861260  0.0163 TC=0,0 
R_R48         N86006 N859500  0.0056 TC=0,0 
R_R53         N85892 N862640  0.1 TC=0,0 
R_R50         N85892 0  10G TC=0,0 
L_L12         N859500 0  0.42nH  
R_R49         N85892 N86006  .9G TC=0,0 
R_R52         N85892 N86162  18G TC=0,0 
X_U3         0 N85892 GRM188R60J106ME47 
C_C17         N86162 N85892  100n  
C_C16         N86006 N85892  1u  
I_I11         N85892 0 DC 0Adc AC 1Aac 
