* PSpice Model Editor - Version 16.6.0

*$
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1608/X7R/47000pF/25V
* Murata P/N :GRM188R71E473KA01
* Property : C = 47000[pF]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100000.0Hz-6.0E9Hz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM188R71E473KA01 port1 port2
C1 port1 11 4.72e-8
L2 11 12 1.30e-10
R3 12 13 2.50e-2
C4 13 14 8.70e-6
R4 13 14 1.83
C5 14 15 5.89e-6
R5 14 15 1.83
C6 15 16 3.81e-6
R6 15 16 4.75e-1
C7 16 17 3.84e-6
R7 16 17 6.90e-2
C8 17 18 3.15e-6
R8 17 18 1.31e-2
L9 18 19 1.05e-10
R9 18 19 1.04e-1
L10 19 20 7.44e-12
R10 19 20 6.23e-2
C11 20 21 4.21e-7
L11 20 21 1.38e-11
R11 20 21 1.56e-2
C12 21 22 7.80e-8
L12 21 22 3.38e-11
R12 21 22 3.78e-2
C13 22 23 7.53e-12
L13 22 23 8.09e-11
R13 22 23 9.18
C14 23 port2 1.79e-12
L14 23 port2 1.61e-10
R14 23 port2 29.7
R100 port1 11 1.00e+10
.ENDS GRM188R71E473KA01
*$
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1608/X7R/10000pF/25V
* Murata P/N :GRM188R71E103KA01
* Property : C = 10000[pF]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100000.0Hz-6.0E9Hz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM188R71E103KA01 port1 port2
C1 port1 11 9.50e-9
L2 11 12 9.00e-11
R3 12 13 6.28e-2
C4 13 14 5.83e-7
R4 13 14 14.7
C5 14 15 7.00e-7
R5 14 15 2.53
C6 15 16 7.13e-6
R6 15 16 2.23
C7 16 17 6.24e-7
R7 16 17 4.28e-1
C8 17 18 4.82e-7
R8 17 18 8.25e-2
C9 18 19 8.33e-7
R9 18 19 1.34e-2
L10 19 20 7.53e-11
R10 19 20 2.32e-1
C11 20 21 1.34e-7
L11 20 21 7.51e-12
R11 20 21 2.45e-2
C12 21 22 1.19e-8
L12 21 22 3.30e-11
R12 21 22 8.26e-2
C13 22 23 3.22e-11
L13 22 23 1.26e-10
R13 22 23 2.50
C14 23 port2 1.52e-12
L14 23 port2 2.31e-10
R14 23 port2 29.4
R100 port1 11 1.00e+10
.ENDS GRM188R71E103KA01
*$
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1608/X5R/0.1uF/25V
* Murata P/N :GRM188R61E104KA01
* Property : C = 0.1[uF]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100000.0Hz-6.0E9Hz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM188R61E104KA01 port1 port2
C1 port1 11 9.60e-8
L2 11 12 6.00e-11
R3 12 13 1.70e-2
C4 13 14 1.37e-5
R4 13 14 1.17
C5 14 15 1.29e-5
R5 14 15 5.84e-1
C6 15 16 8.96e-6
R6 15 16 2.54e-1
C7 16 17 8.33e-6
R7 16 17 3.82e-2
C8 17 18 1.34e-5
R8 17 18 6.58e-3
C9 18 19 9.06e-6
R9 18 19 1.60e-3
L10 19 20 1.15e-11
R10 19 20 8.07e-2
L11 20 21 1.27e-10
R11 20 21 7.48e-2
C12 21 22 8.97e-7
L12 21 22 1.53e-11
R12 21 22 1.05e-2
C13 22 23 1.82e-7
L13 22 23 3.29e-11
R13 22 23 2.38e-2
C14 23 24 8.47e-12
L14 23 24 8.04e-11
R14 23 24 8.56
C15 24 port2 1.02e-12
L15 24 port2 2.29e-10
R15 24 port2 51.9
R100 port1 11 5.00e+9
.ENDS GRM188R61E104KA01
*$
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1608/X7R/1uF/25V
* Murata P/N :GRM188R71E105KA12
* Property : C = 1[uF]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100.0Hz-6.0E9Hz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM188R71E105KA12 port1 port2
C1 port1 11 6.26e-7
L2 11 12 2.00e-10
R3 12 13 8.77e-3
C4 13 14 4.76e-5
R4 13 14 114
C5 14 15 4.72e-5
R5 14 15 15.1
C6 15 16 4.13e-5
R6 15 16 3.04
C7 16 17 4.14e-5
R7 16 17 8.77e-1
C8 17 18 3.07e-5
R8 17 18 3.74e-1
C9 18 19 2.02e-5
R9 18 19 8.85e-2
C10 19 20 1.95e-5
R10 19 20 1.81e-2
C11 20 21 2.61e-5
R11 20 21 4.03e-3
L12 21 22 3.08e-11
R12 21 22 8.69e-2
L13 22 23 6.24e-12
R13 22 23 7.84e-2
L14 23 24 1.24e-10
R14 23 24 4.08e-2
C15 24 25 3.43e-6
L15 24 25 2.67e-11
R15 24 25 8.80e-3
C16 25 26 8.15e-7
L16 25 26 5.58e-11
R16 25 26 1.68e-2
C17 26 port2 4.97e-12
L17 26 port2 7.96e-11
R17 26 port2 16.0
R100 port1 11 5.00e+8
.ENDS GRM188R71E105KA12
*$
