* PSpice Model Editor - Version 16.6.0

*$
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1608/X5R/10uF/6.3V
* Murata P/N :GRM188R60J106ME47
* Property : C = 10[uF]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100.0Hz-6.0E9Hz
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM188R60J106ME47 port1 port2
C1 port1 11 6.07e-6
L2 11 12 1.40e-10
R3 12 13 3.11e-3
C4 13 14 1.23e-4
R4 13 14 44.1
C5 14 15 2.09e-4
R5 14 15 6.68
C6 15 16 2.60e-4
R6 15 16 9.60e-1
C7 16 17 6.51e-4
R7 16 17 4.68e-2
C8 17 18 5.91e-4
R8 17 18 6.09e-3
C9 18 19 9.33e-4
R9 18 19 9.05e-4
L10 19 20 2.83e-11
R10 19 20 1.29e-1
L11 20 21 3.84e-11
R11 20 21 2.25e-2
L12 21 22 2.65e-10
R12 21 22 1.67e-2
C13 22 23 1.72e-5
L13 22 23 6.51e-11
R13 22 23 3.36e-3
C14 23 24 2.04e-5
L14 23 24 2.98e-11
R14 23 24 2.74e-3
C15 24 port2 3.54e-12
L15 24 port2 7.61e-11
R15 24 port2 25.0
R100 port1 11 5.00e+6
.ENDS GRM188R60J106ME47
*$
